US07399759B2
2-Cyano-6-isopropylthiopyridine
Isopropyl mercaptan (0.60 g, 7.9 mmol) was dissolved in tetrahydrofuran (100 ml) and added dropwise to sodium hydride (60% oil, 0.35 g, 8.7 mmol). The reaction mixture was stirred at room temperature for 1 hr. A solution of 2-chloro-6-cyanopyridine (1.00 g, 7.2 mmol) in tetrahydrofuran (10 ml) was added to the mixture, and the mixture was stirred at room temperature for 18 hrs. The reaction mixture was concentrated under reduced pressure, diluted with water and extracted with ethyl acetate. The extract was washed with saturated brine and dried. The solvent was evaporated under reduced pressure to give the titled compound (1.40 g, ca. 100%) as an oil.

reactant | Isopropyl mercaptan | 7.9 mmol, 0.60 g | C(C)(C)S | C3H8S
reactant | sodium hydride | 8.7 mmol, 0.35 g | [H-].[Na+]
reactant | 2-chloro-6-cyanopyridine | 7.2 mmol, 1.00 g | ClC1=NC(=CC=C1)C#N | C6H3ClN2
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 2-Cyano-6-isopropylthiopyridine | 1.40 g, ca. 100% | C(#N)C1=NC(=CC=C1)SC(C)C | C9H10N2S
